US07319104B2
2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Hydrolysis of ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate with NaOH as per general procedure H provided after chromatography and crystallization from dichloromethane-hexane, the title compound as a white solid (56 mg; 52% yield).

reactant | ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | BrC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C27H28BrF3N2O3
reactant | NaOH | [OH-].[Na+]
product | 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | 56 mg, 52% yield | BrC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)O)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C25H24BrF3N2O3
